US04272437
2. 1-(t-Butyldimethylsilyl)-4-tritylthio-2-azetidinone
Triethylamine (1.62 ml, 11.6 mmoles) was added dropwise in 5 min to a cooled (0°) and stirred solution of 4-tritylthio-2-azetidinone (3.5 g, 10.1 mmoles) and chloro-t-butyldimethylsilane (1.68 g, 12.7 mmoles) in DMF (35 ml). The reaction mixture was stirred at room temperature for 18 h, diluted with water (250 ml) and ether (200 ml). The organic phase was washed with water (3×50 ml), dried and concentrated to leave an oil (4.33 g). Crystallization from pentane gave a total of 4.1 g (89%) of the title compound as a white solid, m.p. 113°-114°. δ (ppm, CDCl3): 7.45 (15H, m, aromatics), 4.2 (1H, dd, H-4), 2.63 (1H, dd, J=4, J=16, H-3), 2.13 (1H, dd, J=2, J=16, H-3), 1.0 (9H, s, t-Bu), 0.35 (6H, s, Me). νc=o 1735 cm-1. Anal. calc'd for C28H33NOSSi: C, 73.15; H, 7.24; N, 3.05; S, 6.97%. Found: C, 73.27; H, 7.32; N, 2.97; S 6.94%.

reactant | Triethylamine | 11.6 mmoles, 1.62 ml | C(C)N(CC)CC | C6H15N
reactant | 4-tritylthio-2-azetidinone | 10.1 mmoles, 3.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SC1CC(N1)=O | C22H19NOS
reactant | chloro-t-butyldimethylsilane | 12.7 mmoles, 1.68 g | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | water | 250 ml | O | H2O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-(t-Butyldimethylsilyl)-4-tritylthio-2-azetidinone | 4.33 g | [Si](C)(C)(C(C)(C)C)N1C(CC1SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C28H33NOSSi
